US05244894
1.2. 2-[[3-[4-(3-Chlorophenyl)piperazin-1-yl]propyl]amino]-N-methylpyrimidine-4-carboxamide, hydrochloride
4.5 g (11.5 mmols) of methyl 2-[[3-[4-(3-chlorophenyl)piperazin-1-yl]propyl]amino]pyrimidine-4-carboxylate and 200 ml of methanol are introduced into a 0.5 l, round bottomed flask and then the solution is saturated with gaseous methylamine. The reaction mixture is stirred at room temperature while saturating several times with gaseous methylamine. The solvent is evaporated under reduced pressure. 4.05 g (10.4 mmols) of base are obtained to which 104 ml of 0.1N hydrochloric acid in 2-propanol are added. The solvent is evaporated and the product is recrystallised from 2-butanone. 3.8 g of compound are obtained.

reactant | methyl 2-[[3-[4-(3-chlorophenyl)piperazin-1-yl]propyl]amino]pyrimidine-4-carboxylate | 11.5 mmols, 4.5 g | ClC=1C=C(C=CC1)N1CCN(CC1)CCCNC1=NC=CC(=N1)C(=O)OC | C19H24ClN5O2
reactant | methanol | 200 ml | CO | CH4O
reactant | methylamine | CN | CH5N
reactant | hydrochloric acid | 0.1N, 104 ml | Cl | ClH
solvent | 2-propanol | CC(C)O | C3H8O
product | 2-[[3-[4-(3-Chlorophenyl)piperazin-1-yl]propyl]amino]-N-methylpyrimidine-4-carboxamide, hydrochloride | 10.4 mmols, 4.05 g | Cl.ClC=1C=C(C=CC1)N1CCN(CC1)CCCNC1=NC=CC(=N1)C(=O)NC | InChI=1S/C19H25ClN6O.ClH/c1-21-18(27)17-6-8-23-19(24-17)22-7-3-9-25-10-12-26(13-11-25)16-5-2-4-15(20)14-16;/h2,4-6,8,14H,3,7,9-13H2,1H3,(H,21,27)(H,22,23,24);1H
